US06423713B1
A mixture of 4-[3-(4-fluorophenyl)-5-methyl-1H-pyrazol-4-yl)pyridine (5.8 g, 24.0909 mmol; prepared as set forth in Example A-4) and potassium permanganate (7.6916 g, 48.1818 mmol) in water (7.5 mL) and tert-butanol (10 mL) was heated to reflux at 95 to 100° C. for 6 hours (or until all the potassium permanganate was consumed) and stirred at room temperature overnight. The mixture was diluted with water (150 mL) and filtered to remove manganese dioxide. The aqueous filtrate (pH>10) was extracted with ethyl acetate to remove unreacted starting material. The aqueous layer was acidified with 1N HCl to a pH of about 6.5. A white precipitate was formed. This precipitate was collected by filtration, dried in air, and then dried in a vacuum oven overnight at 50° C. to give 5-(4-fluorophenyl)-4-(4-pyridinyl)-1H-pyrazole-3-carboxylic acid, monohydrate (2.7677 g, 40.6%). The remaining product (0.21 g, 3.1%) was isolated from the mother liquid by reverse phase chromatography. The total isolated yield of 5-(4-fluorophenyl)-4-(4-pyridinyl)-1H-pyrazole-3-carboxylic acid, monohydrate was 43.7%. Anal. Calc'd for C15H10N3FO2.H2O: C, 59.80; H, 4.01; N, 13.95; Found: C, 59.48; H, 3.26; N, 13.65. MS (MH+): 284 (base peak).

reactant | 4-[3-(4-fluorophenyl)-5-methyl-1H-pyrazol-4-yl)pyridine | FC1=CC=C(C=C1)C1=NNC(=C1C1=CC=NC=C1)C | C15H12FN3
reactant | potassium permanganate | 48.1818 mmol, 7.6916 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | water | 7.5 mL | O | H2O
solvent | tert-butanol | 10 mL | C(C)(C)(C)O | C4H10O
product | 5-(4-fluorophenyl)-4-(4-pyridinyl)-1H-pyrazole-3-carboxylic acid, monohydrate | 2.7677 g, 40.6% | O.FC1=CC=C(C=C1)C1=C(C(=NN1)C(=O)O)C1=CC=NC=C1 | InChI=1S/C15H10FN3O2.H2O/c16-11-3-1-10(2-4-11)13-12(9-5-7-17-8-6-9)14(15(20)21)19-18-13;/h1-8H,(H,18,19)(H,20,21);1H2
